US07781454B2
Step 2: 2,5-dichloro-3-{[5-chloro-2-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-2H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile
tert-butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-2H-1,2,3-benzotriazol-2-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (100 mg, 0.175 mmol) was dissolved in TFA (5 mL) at room temperature. After 20 minutes, the reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by reverse phase chromatography eluting with 30-95% MeCN/H2O+0.1% TFA. The product fractions were concentrated under reduced pressure to yield the title compound. 1H NMR (DMSO-d6) δ 13.80 (s, 1H), 8.44 (d, J=2.9 Hz, 1H), 7.99 (d, J=2.2 Hz), 7.95 (m, 1H), 7.93 (d, J=9.2 Hz, 1H), 7.62 (d, J=9.2 Hz, 1H), 7.35 (d, J=2.3 Hz, 1H), 7.16 (dd, J=8.0 Hz, J=4.6 Hz, 1H), 6.30 (s, 2H). HRMS (M+1)=470.0076.

reactant | tert-butyl 3-{[5-chloro-4-(2,5-dichloro-3-cyanophenoxy)-2H-1,2,3-benzotriazol-2-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.175 mmol, 100 mg | ClC1=C(C=2C(=NN(N2)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)C=C1)OC1=C(C(=CC(=C1)Cl)C#N)Cl | C25H18Cl3N7O3
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2,5-dichloro-3-{[5-chloro-2-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-2H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC2=NN(N=C21)CC2=NNC1=NC=CC=C12)Cl)Cl | C20H10Cl3N7O
